US05250679
To a magnetically stirred solution of 3.99 grams of 6-amino-1-hexyne (0.0413 mol) in 50 mL tetrahydrofuran was added 9.1 grams of di-tert-butyl dicarbonate (0.042 mol). After 2 hours, the reaction mixture was concentrated in vacuo and the resulting residue chromatographed, using silica gel, eluting with 1:1 ether/hexane to yield 3.4 grams (42%) N-boc-6-amino-1-hexyne (TLC, SiO2, 1:1 ether/hexane, Rf =0.5, ninhydrin char). 1H NMR (CDCl3, δTMS) 4.55 (1H, bs, BocNH), 3.13 (2H, bq, 3JHH =5 Hz, BocNHCH2), 2.21 (2H, dt, 4JHH =3 Hz, 3JHH =7 Hz, C∫CCH2), 1.95 (1H, t, 4JHH =3 Hz, C∫CH), 1.6 (4H, m, CH2CH2CH2CH2), 1.42 (9H, s, t-Bu).

reactant | 6-amino-1-hexyne | 0.0413 mol, 3.99 grams | NCCCCC#C | C6H11N
reactant | di-tert-butyl dicarbonate | 0.042 mol, 9.1 grams | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | tetrahydrofuran | 50 mL | O1CCCC1 | C4H8O
product | N-boc-6-amino-1-hexyne | 3.4 grams, 42% | C(=O)(OC(C)(C)C)NCCCCC#C | C11H19NO2
